US06743785B2
5-Chloro-1,2,3,4-tetrahydroquinoline
A mixture of 5-chloroquinoline (10.0 g) and platinum oxide (50 mg) in acetic acid was shaken under a hydrogen atmosphere at room temperature for 4 hours. The mixture was diluted with diethyl ether and filtered through Celite. The volatiles were removed under reduced pressure and the residue was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate (3×300 mL). The organic extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified over silica gel and the fractions containing product were combined and concentrated under reduced pressure to provide 7.0 g (69%) of the desired compound.

reactant | 5-chloroquinoline | 10.0 g | ClC1=C2C=CC=NC2=CC=C1 | C9H6ClN
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | platinum oxide | 50 mg | [Pt]=O
product | 5-Chloro-1,2,3,4-tetrahydroquinoline | 7.0 g, 69% | ClC1=C2CCCNC2=CC=C1 | C9H10ClN
